US07713982B2
3-(3-buten-1-yl)-8-chloro-3,7-dihydro-1H-purine-2,6-dione
8-chloro-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.44 mmol) was stirred with sodium carbonate (52 mg, 0.49 mmol) in dry DMF (3 ml) for 45 min., then 4-bromo-1-butene (66 mg, 0.49 mmol) was added and the mixture was stirred under nitrogen at 40 C for 65 h. After cooling to room temperature, the mixture was thoroughly degassed by evacuating the vessel and refilling with nitrogen several times. Tetrakis(triphenylphosphine)palladium(0) (102 mg, 0.09 mmol) was added, the mixture degassed again and then morpholine (0.385 ml, 4.4 mmol) added and stirring continued for 6.5 h. 2M HCl and EtOAc were added, and the 2-phase system was filtered to remove a yellow precipitated solid. The organic phase of the filtrate was separated and evaporated. The residue was dissolved with warming in THF-MeOH (1:1) and loaded onto an aminopropyl SPE (5 g) which was eluted with THF-MeOH (1:1) followed by MeOH and then 5% AcOH in MeOH-DCM (1:1). The product fraction was further purified by mass-directed autoprep to afford the title compound.

reactant | 8-chloro-3,7-dihydro-1H-purine-2,6-dione | 0.44 mmol, 100 mg | ClC1=NC=2NC(NC(C2N1)=O)=O | C5H3ClN4O2
reactant | sodium carbonate | 0.49 mmol, 52 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-bromo-1-butene | 0.49 mmol, 66 mg | BrCCC=C | C4H7Br
reactant | morpholine | 4.4 mmol, 0.385 ml | N1CCOCC1 | C4H9NO
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.09 mmol, 102 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-buten-1-yl)-8-chloro-3,7-dihydro-1H-purine-2,6-dione | C(CC=C)N1C(NC(C=2NC(=NC12)Cl)=O)=O | C9H9ClN4O2
